US06982348B2
2) ethyl 3-amino-1-naphthoate
A solution of ethyl 3-nitro-1-naphthoate (5.371 g, 21.90 mmol) in ethanol (30 ml) was hydrogenated under normal temperature and normal pressure using 10% palladium/carbon (containing water by 50%) (0.5 g) as a catalyst until the starting material disappeared. The catalyst was filtered off and the solvent was evaporated under reduced pressure. The obtained crude product was purified by silica gel column chromatography (hexane/ethyl acetate=6/1−3/1) to give the objective substance.

reactant | ethyl 3-nitro-1-naphthoate | 21.90 mmol, 5.371 g | [N+](=O)([O-])C=1C=C(C2=CC=CC=C2C1)C(=O)OCC | C13H11NO4
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 0.5 g | [Pd] | Pd
product | ethyl 3-amino-1-naphthoate | NC=1C=C(C2=CC=CC=C2C1)C(=O)OCC | C13H13NO2
